US06630600B1
3-(4-Benzyloxy-2-nitrophenyl)-2-oxopropanoic acid (40 g; 0.127 mole) was dissolved in methanol (300 ml). Hydrochloric acid (conc, 10 ml) was added under stirring. The reaction mixture was heated to reflux for 3.5 hours and then evaporated to dryness. Dichloromethane and water were added to the residue and the phases were separated. The organic phase was washed with diluted sodium hydrogencarbonate solution and water, and dried with magnesium sulfate. Filtration through a short silica gel column and evaporation gave 29.6 g (71% yield) of 3-(4benzyloxy-2-nitrophenyl)-2-oxopropanoic acid methyl ester as a yellow solid.

reactant | 3-(4-Benzyloxy-2-nitrophenyl)-2-oxopropanoic acid | 0.127 mole, 40 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(C(=O)O)=O)[N+](=O)[O-] | C16H13NO6
reactant | Hydrochloric acid | 10 ml | Cl | ClH
reactant | methanol | 300 ml | CO | CH4O
product | 3-(4benzyloxy-2-nitrophenyl)-2-oxopropanoic acid methyl ester | 29.6 g, 71% yield | COC(C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O)=O | C17H15NO6
